US08138175B2
C) 4-(3,4-Dichloro-phenyl)-3-methyl-1-(3-piperidin-1-yl-propyl)-piperazin-2-one
Trifluoroacetic acid (1.15 g, 10.1 mmol) was added to a solution of 2-(3,4-dichloro-phenylamino)-N-(2,2-dimethoxy-ethyl)-N-(3-piperidin-1-yl-propyl)-propionamide (300 mg, 0.67 mmol) in CH2Cl2 (6 mL) at 0° C. After 30 min the ice bath was removed, then after 1 h triethylsilane (391 mg, 3.36 mmol) was added. After 16 h the reaction mixture was cooled to 0° C. and treated with triethylamine, then after 15 min partitioned between CH2Cl2 and sat. aq. NaHCO3 solution. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (IST Isolute® Flash NH2; EtOAc) afforded the title compound (184 mg, 71%). Yellow oil, MS: 384.2 (M+H)+.

reactant | Trifluoroacetic acid | 10.1 mmol, 1.15 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3,4-dichloro-phenylamino)-N-(2,2-dimethoxy-ethyl)-N-(3-piperidin-1-yl-propyl)-propionamide | 0.67 mmol, 300 mg | ClC=1C=C(C=CC1Cl)NC(C(=O)N(CCCN1CCCCC1)CC(OC)OC)C | C21H33Cl2N3O3
reactant | triethylsilane | 3.36 mmol, 391 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Dichloro-phenyl)-3-methyl-1-(3-piperidin-1-yl-propyl)-piperazin-2-one | 184 mg, 71% | ClC=1C=C(C=CC1Cl)N1C(C(N(CC1)CCCN1CCCCC1)=O)C | C19H27Cl2N3O
